USH0001401
Step E: Preparation of 5-methyl-3(phenylamino)-5[4-[[2-(trimethylsilyl)phenyl]-methoxy]phenyl]-2,4-oxazolidinedione
A solution of ethyl 2-(4-(2-trimethylsilylbenzyloxy)phenyl)lactate (0.93 g, 2.5 mmol) in CH2Cl2 (15 mL) was treated with 1,1'-carbonyldiimidazole (0.53 g, 3.3 mmol) and the resulting mixture was heated overnight. The resulting solution was diluted with diethyl ether (45 mL) and washed with H2O (two-times with 15 mL), brine (15 mL), dried (MgSO4) and concentrated under vacuum. The residue was dissolved in CH2Cl2 and to the solution was added PhNHNH2 (0.46 g, 4.3 mmol) and acetic acid (0.24 mL, 4.3 mmol). The resulting mixture was stirred at room temperature for 60 h afterwhich time the mixture was diluted with CH2Cl2 (20 ml) and washed with 1N aqueous HCl (10 mL) and H2O (10 mL). The organic phases were dried (MgSO4) and concentrated under vacuum to yield a residue which was subjected to column chromatography (75 g SiO2 eluted with 2:2:6 diethyl ether/CH2Cl2 /hexanes) thereby affording the product of Step E as a yellow powder, 0.62 g; (54%); m.p. 112°-114° C.; IR (mineral oil): 3308, 1738, 1245 cm-1 ; 1 H NMR (CDCl3): δ7.6 (d,1H), 7.55 (d,2H), 7.5 (d,1H), 7.45 (t,1H), 7.35 (t,1H), 7.25 (m,2h), 7.0 (d,3H), 6.75 (d,2H), 6.05 (s,1H), 5.1 (s,2h), 2.0 (s,3H), 1.23 (t,3H), 0.3 (s,9H).

reactant | ethyl 2-(4-(2-trimethylsilylbenzyloxy)phenyl)lactate | 2.5 mmol, 0.93 g | C[Si](C1=C(COC2=CC=C(C=C2)C(C(=O)OCC)(O)C)C=CC=C1)(C)C | C21H28O4Si
reactant | 1,1'-carbonyldiimidazole | 3.3 mmol, 0.53 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | PhNHNH2 | 4.3 mmol, 0.46 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 4.3 mmol, 0.24 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 45 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-3(phenylamino)-5[4-[[2-(trimethylsilyl)phenyl]-methoxy]phenyl]-2,4-oxazolidinedione | CC1(C(N(C(O1)=O)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC1=C(C=CC=C1)[Si](C)(C)C | C26H28N2O4Si
